US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-{4-[2-(t-butyldiphenylsilyloxy)ethylcarbamoyl]-1,3-thiazol-2-yl}azetidine (1.68 g, 2.33 mmol) (obtained as described in Reference Example 33(2)) in anhydrous tetrahydrofuran (75 ml) was added a solution of 1.0M tetra-n-butylammonium fluoride in tetrahydrofuran (5.6 ml, 5.6 mmol) in an ice bath, and the mixture was stirred in the ice bath for 1 hour. After checking the completion of the reaction, the reaction mixture was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate:methanol (10:1) as the eluant to afford 3-hydroxy-1-(4-hydroxyethylcarbamoyl-1,3-thiazol-2-yl)azetidine (481.2 mg, yield 85%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-{4-[2-(t-butyldiphenylsilyloxy)ethylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 2.33 mmol, 1.68 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(NCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C41H49N3O3SSi2
reactant | tetra-n-butylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.6 mmol, 5.6 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-1-(4-hydroxyethylcarbamoyl-1,3-thiazol-2-yl)azetidine | 481.2 mg, yield 85% | OC1CN(C1)C=1SC=C(N1)C(NCCO)=O | C9H13N3O3S
